US06384041B1
A solution of sodium ethoxide (prepared from 0.96 g (40 mmol) of sodium hydride and 40 mL of ethanol) was treated with 3.78 g (40 mmol) of acetamidine hydrochloride and 9.09 g (40 mmol) of a-cyano-2-ethyl-1,3-dioxolane-2-propanoic acid ethyl ester. The mixture was heated to reflux for 150 minutes, cooled to ambient temperature and concentrated under vacuum. The solid residue was dissolved in 50 mL of water and the resulting solution washed with ethyl ether. The product precipitated upon neutralization to pH 7.0 with glacial acetic acid. The precipitate was collected by filtration, washed with water, and dried to 0.70 g (7.5%) of 2-methyl-6-amino-5-(2-ethyl-1,3-dioxolan-2-ylmethyl)-4-pyrimidinol. The filtrate and wash were combined and concentrated. The resulting solid was slurried in ethyl ether and solids collected to provide an additional 1.3 g (14%) of 2-methyl-6-amino-5-(2-ethyl-1,3-dioxolan-2-ylmethyl)-4-pyrimidinol as a tan solid. nmr (500 MHz, dmso-d6) δ0.79 (t, J=7.4 Hz, 3H), 1.51 (q, J=7.4 Hz, 2H), 2.10 (s, 3H), 2.58 (s, 2H), 3.83 (m, 2H), 3.93 (m, 2H), 6.00 (s, 2H), 11.38 (s, 1H)

reactant | sodium ethoxide | 40 mmol, 40 mL, 0.96 g | [O-]CC.[Na+]
reactant | sodium hydride | 40 mmol | [H-].[Na+]
reactant | acetamidine hydrochloride | 40 mmol, 3.78 g | Cl.C(C)(=N)N
reactant | a-cyano-2-ethyl-1,3-dioxolane-2-propanoic acid ethyl ester | 40 mmol, 9.09 g | C(C)OC(C(CC1(OCCO1)CC)C#N)=O | C11H17NO4
product | 2-methyl-6-amino-5-(2-ethyl-1,3-dioxolan-2-ylmethyl)-4-pyrimidinol | 1.3 g, 14% | CC1=NC(=C(C(=N1)O)CC1(OCCO1)CC)N | C11H17N3O3
